US06004977
(3.4-Dihydro-8-methoxy-1H-isoquinolin-2-yl)-4-pyridinylamine
A mixture of 5-bromo-3,4-dihydro-8-methoxy-1H-isoquinolin-2-yl-4-pyridinylamine (0.8 g), ethanol (75 ml) and 5% palladium-on-carbon (0.1 g) was hydrogenated at 55 psi overnight in a Parr shaker at ambient temperature. The reaction mixture was filtered through a pad of celite, the pad was washed with methanol, and the filtrate was concentrated. Aqueous sodium hydrogen carbonate was added to the residue, and the mixture was extracted with ethyl acetate. The extracts were dried over anhydrous magnesium sulfate, filtered, and the filtrate was concentrated. The residue was chromatographed on silica gel on a Chromatotron, eluting with 1% triethylamine/5% methanol/94% ethyl acetate. The appropriate fractions were collected and concentrated. The residue was crystallized in hot ethyl acetate to give 0.25 g (41%) of product, mp 170-171° C.

reactant | 5-bromo-3,4-dihydro-8-methoxy-1H-isoquinolin-2-yl-4-pyridinylamine | 0.8 g | BrC1=C2C=CN(CC2=C(C=C1)OC)NC1CC=NC=C1 | C15H16BrN3O
catalyst | palladium-on-carbon | 0.1 g | [Pd] | Pd
solvent | ethanol | 75 ml | C(C)O | C2H6O
product | (3.4-Dihydro-8-methoxy-1H-isoquinolin-2-yl)-4-pyridinylamine | 0.25 g, 41% | COC=1C=CC=C2CCN(CC12)NC1=CC=NC=C1 | C15H17N3O
